2137-05-19 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transplant and hepatology made aware and suggested multiple tests inc
   HIV, Hep serologies, CMV, abg, t+s, and Q6H LFTs inc INR
   - Tylenol level to 8 so stopped checking
   - NAC continued at 6.25mg/hr
   - LFTs in 2K range (much worse)
   - Psych consulted for eval prior to encephalopathy developing. They
   thought likely not suicidal but potentially PTSD from fire. Will
   continue to follow.
   - Tox consulted and said would defer to hepatology and transplant
   - Lower abd pain ([**5-8**]) at 4am. Not stooling. Passing gas. Refused
   rectal exam. Denied bleeding/melena. Abd benign. No further episodes.
   - Had bilious emesis this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-5-19**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 51 (49 - 77) bpm
   BP: 128/67(82) {111/50(64) - 148/99(110)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    272 mL
                                                                    607 mL
   PO:
             TF:
   IVF:
                                                                    272 mL
                                                                    607 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                    600 mL
   Urine:
                                                                  1,300 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,028 mL
                                                                      7 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.42/26/106/19/-5
   Physical Examination
   GEN: Young female in NAD
   HEENT: NC/AT sclera anicteric Dry MM, +strabismus (R exodeviation)
   LUNGS: CTAB
   HEART: RRR no m/r/g
   ABD: Soft TTP over left abdomen No rebound or guarding. +BS
   EXTREM: No edema
   NEURO: A+OX 3 No asterixis
   Labs / Radiology
   179 K/uL
   14.6 g/dL
   94 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.2 mEq/L
   8 mg/dL
   110 mEq/L
   139 mEq/L
   41.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2137-5-18**]  05:30 PM
                             [**2137-5-18**]  09:38 PM
                             [**2137-5-18**]  11:39 PM
                             [**2137-5-19**]  05:20 AM
   WBC
   9.0
   8.0
   Hct
   40.9
   41.6
   Plt
   154
   179
   Cr
   0.8
   0.8
   0.7
   TCO2
   17
   Glucose
   99
   86
   94
   Other labs: PT / PTT / INR:33.8/40.8/3.4, ALT / AST:2370/1135, Alk Phos
   / T Bili:105/4.1, Amylase / Lipase:/62, Differential-Neuts:74.4 %,
   Lymph:20.2 %, Mono:4.1 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, LDH:891
   IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This is an 18yo F with tylenol [**Hospital **] transferred from OSH for possible
   liver transplant.
   # Tylenol OD: LFTs increasing at OSH so was transferred for possible
   liver transplant in anticipation of the labs getting worse given the
   time course of her presentation and the delay in getting NAC. Per the
   Rumack-[**Doctor First Name 1998**] Nomogram she is in the level of probable hepatotoxicity
   based on the APAP level when she presented (119) at 16 hours
   post-ingestion. LFTs improved today.
   - Cte NAC at 325mg/hr until LFTs normalize and clinically stable
   - APAP<10 so no need to follow daily levels
   - Follow Q6H LFTs and lytes as APAP OD can precipitate ARF .
   - F/u hep serologies, HIV
   - Serial neuro exams to eval for encephalopathy
   - F/u liver, transplant, psych recs; transplant SW made aware
   # Psych: Has h/o cutting and was followed by therapist and psychiatrist
   in the past although denies any diagnosis. Was evaluated by the
   psychiatric service at the OSH who felt she had PTSD [**12-31**] the fire and
   was not actually suicidal. The patient seems to have poor insight into
   her actions and its unclear exactly why she took the tylenol although
   she did it exactly one month after the fire so it's likely this
   overdose is related to that event.
   - F/u psych recs
   - Suicidal precautions until psych evaluation
   - SW consult as well for substance abuse (marijuana in urine) and to
   set up with therapist in [**State 395**]
   - Will contact patient's PCP for collateral info on Monday
   # Asthma: Patient has h/o asthma as well as FHx of "abnormal bronchi"
   in mom and grandparents. Has been smoking since Age 6 and takes
   singulair, flovent, and albuterol at home. When first presented had
   some respiratory distress which rapidly resolved.
   - D/c singulair as hepatically cleared
   - Cont Flovent, albuterol
   - O2 as needed. Currently on RA
   # Pelvic Pain: Unclear etiology. Suspect gas pain. Patient refused
   laxatives and stool softeners. Exam non-concerning.
   - F/U abdominal exams
   - Consider KUB if pain persists or worsens
   - Bowel regimen if she will take it
   ICU Care
   Nutrition: 1/2NS @75/hr while NPO, replete electrolytes PRN; if next
   set LFTs cont to improve, consider restarting diet
   Glycemic Control:  none
   Lines:
   18 Gauge - [**2137-5-18**] 04:17 PM
   20 Gauge - [**2137-5-18**] 09:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: H2 blocker
   Communication:  Comments: Patient, [**Name (NI) 6273**] (mom), and [**Name (NI) 395**] Medical
   Center ([**Telephone/Fax (1) 8314**])
   Code status: Full
   Disposition: ICU for now. Consider call out to floor if liver enzymes
   stable/trending down

2137-05-19 08:53:00 Physician Attending Progress Note
Chief Complaint: tylenol overdose, evolving hepatotoxicity
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2137-5-18**] 04:30 PM
 NASAL SWAB - At [**2137-5-18**] 05:30 PM
   routine MRSA screen
   inr peaked at 3.8 now this AM at 3.3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-5-19**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 51 (49 - 77) bpm
   BP: 128/67(82) {111/50(64) - 148/99(110)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    272 mL
                                                                    737 mL
   PO:
             TF:
   IVF:
                                                                    272 mL
                                                                    737 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,225 mL
   Urine:
                                                                  1,300 mL
                                                                  1,200 mL
   NG:
   25 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,028 mL
                                                                   -488 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.42/26/106/19/-5
   Physical Examination
    Gen: alert sitting up in bed
   HEENT: left pupil 5 mm, right 3
 reactive right lat gaze deviation
   old
   CV: brady regular no murmurs
   Chest: bilat CTA
   Abd soft +BS, mild RUQ tenderness
   Ext; no edema
   Neuro: A and O x 3, no asterixis
   Labs / Radiology
   14.6 g/dL
   179 K/uL
   94 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.2 mEq/L
   8 mg/dL
   110 mEq/L
   139 mEq/L
   41.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2137-5-18**]  05:30 PM
                             [**2137-5-18**]  09:38 PM
                             [**2137-5-18**]  11:39 PM
                             [**2137-5-19**]  05:20 AM
   WBC
   9.0
   8.0
   Hct
   40.9
   41.6
   Plt
   154
   179
   Cr
   0.8
   0.8
   0.7
   TCO2
   17
   Glucose
   99
   86
   94
   Other labs: PT / PTT / INR:33.8/40.8/3.4, ALT / AST:2370/1135, Alk Phos
   / T Bili:105/4.1, Amylase / Lipase:/62, Differential-Neuts:74.4 %,
   Lymph:20.2 %, Mono:4.1 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, LDH:891
   IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 .H/O ASTHMA
 .H/O PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   1. Tylenol Overdose: s/p large ingestion and in probable range for
   hepatotoxicity on nomogram by initial labs. Labs this AM stable so
   hopefully she will continue to improve but Transplant work up
   initiated in case she deteriorates.
   Needs SW
   Psych involved, will need to determine inpot vs outot psych if she
   medically clears. 1:1 Sitter.
   2. Asthma: MDIs, prn
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-5-18**] 04:17 PM
   20 Gauge - [**2137-5-18**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  with pt, mom to arrive this AM
   Code status: Full code
   Disposition : ICU

2137-05-20 08:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt does not have insurance.
   - Surgery: Transplant w/u per Liver.
   - Liver: Cont trending q6h. Increase NAC to 375 cc/h (100 mg/kg over 16
   h) - cont till INR <2.
   - Psych: Keep 1:1 sitter. Will likely need d/c to psych when med
   stable. Section 12 in chart (note that male, not female checked off!)
   - Nausea throughout day with bilious/mucous-y emesis. Declined zofran
   as thought exacerbated nausea. Took prilosec and bowel regimen.
   Improved with some po fluid intake.
   - LFTs doubling q6h (nl CK), INR 3.4 -> 5.9. Cr stable. Described SOB
   relieved by nebs. After neb, reported tingling moving down b/l UE, then
   b/l LE which then resolved. Neuro exam nonfocal; no asterixis. Liver
   recommended sending labs for transplant w/u, CXR PA/lat, ?CT abd.
   Surgery said no imaging needed at this time.
   - EKG initially w/ junctional escape rhythm (23:49) which transitioned
   to sinus brady with PACs (00:14). Pt asx; VSS..
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-5-19**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-5-20**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 45 (45 - 70) bpm
   BP: 112/67(78) {99/62(70) - 125/85(93)} mmHg
   RR: 13 (8 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,167 mL
                                                                    763 mL
   PO:
             TF:
   IVF:
                                                                  2,167 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    700 mL
   Urine:
                                                                  2,400 mL
                                                                    700 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -283 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General: NAD
   HEENT: MMM, PERRLA, strabismus
   Lungs: Clear to auscultation bilaterally
   CV: RRR
   Abdomen: BS+, soft, mild LUQ tenderness, no guarding/rebound, not
   distended
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   PSYCH: Affect appropriate. Denies suicidal and homocidal ideation.
   NEURO: A+OX3. No asterixis. Exam nonfocal.
   Refused exam by ICU team ->will reassess later
   Labs / Radiology
   132 K/uL
   14.0 g/dL
   109 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.6 mEq/L
   12 mg/dL
   109 mEq/L
   139 mEq/L
   39.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2137-5-18**]  05:30 PM
                             [**2137-5-18**]  09:38 PM
                             [**2137-5-18**]  11:39 PM
                             [**2137-5-19**]  05:20 AM
                             [**2137-5-19**]  10:40 AM
                             [**2137-5-19**]  03:55 PM
                             [**2137-5-19**]  09:41 PM
                             [**2137-5-20**]  04:06 AM
   WBC
   9.0
   8.0
   6.6
   Hct
   40.9
   41.6
   39.3
   Plt
   154
   179
   132
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   17
   Glucose
   99
   86
   94
   90
   109
   Other labs: PT / PTT / INR:53.2/43.8/5.9, CK / CKMB / Troponin-T:83//,
   ALT / AST:[**Numeric Identifier 8344**]/[**Numeric Identifier 8345**], Alk Phos / T Bili:120/3.7, Amylase / Lipase:/62,
   Differential-Neuts:74.4 %, Lymph:20.2 %, Mono:4.1 %, Eos:1.0 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.9 g/dL, LDH:9610 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   ENZYMES & BILIRUBIN
                                     ALT
                                     AST
                                   LD(LDH)
                                   CK(CPK)
                                   AlkPhos
                                   Amylase
                                   TotBili
                                   DirBili
   [1][**2137-5-20**] 04:06AM
                                  [**Numeric Identifier 8344**]*[1]
                                  [**Numeric Identifier 8345**]*[1]
                                  9610*[1]
   120*
   3.7*
   [2][**2137-5-19**] 09:41PM
                                  [**Numeric Identifier 8338**]*[2]
                                  7155*[2]
   116
   4.1*
   [3][**2137-5-19**] 03:55PM
                                  4855*[1]
                                    2697*
   83
                                     114
   4.5*
   BUN,CREA, ADDED @1828
   [4][**2137-5-19**] 10:40AM
                                  2705*[2]
                                  1246*[2]
                                    811*
   113
   4.2*
   Assessment and Plan
   18yo F with tylenol [**Hospital **] transferred from OSH for possible liver
   transplant.
   # Tylenol OD: LFTs increasing at OSH so was transferred for possible
   liver transplant in anticipation of the labs getting worse given the
   time course of her presentation and the delay in getting NAC. Per the
   Rumack-[**Doctor First Name 1998**] Nomogram she was in the level of probable hepatotoxicity
   based on the APAP level when she presented (119) at 16 hours
   post-ingestion. LFTs and coags continue to worsen despite appropriate
   NAC dosing here.
   - Follow Q6H lytes and LFTs, as can precipitate ARF (this am Cr was
   0.6)
   - Labs for liver transplant work-up sent per Liver recs
   - CXR, abdominal U/S with Doppler, T&S x 2, HIV ordered per Transplant
   Surgery recs
   - F/u any add
l recs per Liver and Transplant Surgery
   - Q2 fingersticks to monitor for hypoglycemia
   # Psych: Has h/o cutting and was followed by therapist and psychiatrist
   in the past although denies any diagnosis. Was evaluated by the
   psychiatric service at the OSH who felt she had PTSD [**12-31**] the fire and
   was not actually suicidal. Has h/o substance abuse (marijuana in
   urine).
   - Section 12 per psych; cont 1:1 sitter
   - Appreciate psych and SW eval; f/u recs
   - Will contact patient's PCP for collateral info
   # Asthma: Patient has h/o asthma as well as FHx of "abnormal bronchi"
   in mom and grandparents. Has been smoking since age 6 and takes
   singulair, flovent, and albuterol at home. When first presented had
   some respiratory distress which rapidly resolved. Had another episode
   overnight responding to nebs.
   - Cont flovent, albuterol
   - Singulair held as hepatically cleared
   - Nicotine patch PRN ->does not want one currently
   - Smoking cessation counseling completed but in pre-contemplative stage
   currently
   - O2 as needed. Currently on RA
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-5-18**] 04:17 PM
   20 Gauge - [**2137-5-18**] 09:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments: With pt and mother.
   [**Name (NI) 36**] status: Full
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_26%22);

2137-05-20 08:34:00 Physician Attending Progress Note
Chief Complaint: liver failure, tylenol overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2137-5-19**] 08:07 AM
 EKG - At [**2137-5-20**] 12:00 AM
   23:49, Pt reported numbness and tingeling throughout her body and some
   chest discomfort along with mild SOB. EKG shoed junctioonal rhythem.
   Rising bili and lFTS overnight- significantly worse
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-5-19**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-5-20**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 45 (45 - 70) bpm
   BP: 112/67(78) {99/62(70) - 125/85(93)} mmHg
   RR: 13 (8 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,167 mL
                                                                    801 mL
   PO:
             TF:
   IVF:
                                                                  2,167 mL
                                                                    801 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    700 mL
   Urine:
                                                                  2,400 mL
                                                                    700 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -283 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Gen: alert sitting up in bed
   HEENT: left pupil 5 mm, right 3
 reactive right lat gaze deviation
   old
   CV: brady regular no murmurs
   Chest: bilat CTA
   Abd soft +BS, mild RUQ tenderness
   Ext; no edema
   Neuro: A and O x 3, no asterixis
   Labs / Radiology
   14.0 g/dL
   132 K/uL
   109 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.6 mEq/L
   12 mg/dL
   109 mEq/L
   139 mEq/L
   39.3 %
   6.6 K/uL
        [image002.jpg]
                             [**2137-5-18**]  05:30 PM
                             [**2137-5-18**]  09:38 PM
                             [**2137-5-18**]  11:39 PM
                             [**2137-5-19**]  05:20 AM
                             [**2137-5-19**]  10:40 AM
                             [**2137-5-19**]  03:55 PM
                             [**2137-5-19**]  09:41 PM
                             [**2137-5-20**]  04:06 AM
   WBC
   9.0
   8.0
   6.6
   Hct
   40.9
   41.6
   39.3
   Plt
   154
   179
   132
   Cr
   0.8
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   TCO2
   17
   Glucose
   99
   86
   94
   90
   109
   Other labs: PT / PTT / INR:53.2/43.8/5.9, CK / CKMB / Troponin-T:83//,
   ALT / AST:[**Numeric Identifier 8344**]/[**Numeric Identifier 8345**], Alk Phos / T Bili:120/3.7, Amylase / Lipase:/62,
   Differential-Neuts:74.4 %, Lymph:20.2 %, Mono:4.1 %, Eos:1.0 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.9 g/dL, LDH:9610 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 BRADYCARDIA
 .H/O ASTHMA
 .H/O PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   1. Tylenol Overdose: s/p large ingestion and in probable range for
   hepatotoxicity on nomogram by initial labs. Labs this AM stable so
   hopefully she will continue to improve but Transplant work up
   initiated in case she deteriorates.
   Needs SW
   Psych involved, will need to determine inpot vs outot psych if she
   medically clears. 1:1 Sitter.
   2. Asthma: MDIs, prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-5-18**] 04:17 PM
   20 Gauge - [**2137-5-18**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   Communication:  with pt and mother
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2137-05-21 05:57:00 Physician Resident Progress Note
Chief Complaint: Denies concerns this AM.  States that she is feeling
   much better.  Asking if she can advance her clear liquid diet.
   24 Hour Events:
 ULTRASOUND - At [**2137-5-20**] 09:35 AM
   abdominal
 TRANSTHORACIC ECHO - At [**2137-5-20**] 01:21 PM
   [**2137-5-20**]
   - LFTs all improving by evening and mental status improved as well
   - RUQ U/S normal
   - CXR normal
   - ECHO normal
   - Liver: Recommended to continue monitoring mental status, Q2hr FSBG,
   and LFTs Q6hrs.  Continue NAC at current dose.
   - Psyche: Incongruent history and poor insight - will likely need
   inpatient psych admission but await liver transplant decision.
   Recommended ethics consult to assist decision making about transplant
   as it is unclear how she would care for herself in context of liver
   transplant and ongoing need for medical care.
   - Resent VZV IgG, EBV Ab panel, and rubella IgG/IgM serologies as prior
   sample was hemolyzed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-5-20**] 10:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-5-21**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 48 (45 - 78) bpm
   BP: 124/72(85) {111/62(74) - 143/82(92)} mmHg
   RR: 16 (9 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,401 mL
                                                                    557 mL
   PO:
                                                                     45 mL
             TF:
   IVF:
                                                                  2,356 mL
                                                                    557 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
                                                                  2,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -199 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General: NAD
   HEENT: MMM, PERRLA
   Lungs: Clear to auscultation bilaterally
   CV: RRR, nl S1S2
   Abdomen: BS+, soft, mild LUQ tenderness, no guarding/rebound, not
   distended
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   PSYCH: Affect appropriate. Denies suicidal and homocidal ideation.
   NEURO: A+OX3. No asterixis. Exam nonfocal.
   Labs / Radiology
   105 K/uL
   13.6 g/dL
   95 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   10 mg/dL
   109 mEq/L
   138 mEq/L
   38.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2137-5-19**]  05:20 AM
                             [**2137-5-19**]  10:40 AM
                             [**2137-5-19**]  03:55 PM
                             [**2137-5-19**]  09:41 PM
                             [**2137-5-20**]  04:06 AM
                             [**2137-5-20**]  09:35 AM
                             [**2137-5-20**]  11:40 AM
                             [**2137-5-20**]  05:15 PM
                             [**2137-5-20**]  10:46 PM
                             [**2137-5-21**]  04:35 AM
   WBC
   8.0
   6.6
   5.8
   5.4
   Hct
   41.6
   39.3
   41.1
   38.9
   Plt
   179
   132
   98
   105
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   Glucose
   94
   90
   109
   168
   95
   98
   96
   95
   Other labs: PT / PTT / INR:24.6/32.9/2.4, CK / CKMB / Troponin-T:83//,
   ALT / AST:[**Numeric Identifier 8363**]/3886, Alk Phos / T Bili:113/3.7, Amylase / Lipase:/62,
   Differential-Neuts:74.4 %, Lymph:20.2 %, Mono:4.1 %, Eos:1.0 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:1432 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   18yo F with tylenol [**Hospital **] transferred from OSH for possible liver
   transplant.
   # Tylenol OD/acute hepatic failure: LFTs increasing at OSH so was
   transferred for possible liver transplant in anticipation of the labs
   getting worse given the time course of her presentation and the delay
   in getting NAC. Per the Rumack-[**Doctor First Name 1998**] Nomogram she was in the level of
   probable hepatotoxicity based on the APAP level when she presented
   (119) at 16 hours post-ingestion. LFTs and coags now improving.
   - likely passed the acute phase of hepatoxicity given LFT trend (peak
   LFTs 11:40 AM, [**2137-5-20**]
 ALT 15,128 and AST 10,396 and peak INR 4 AM,
   [**2137-5-20**])
   - Following Q6H lytes and LFTs, as can precipitate ARF (this am Cr was
   0.5)
   - will ensure one more downward trend in LFTs prior to transfer out of
   ICU
   - Labs for liver transplant work-up sent per Liver recs
   - CXR, abdominal U/S with Doppler, Echo normal.
   - T&S x 2, HIV ordered per Transplant Surgery recs
   - F/u any add
l recs per Liver and Transplant Surgery
   - Q2 fingersticks to monitor for hypoglycemia have been wnl
   # Psych: Has h/o cutting and was followed by therapist and psychiatrist
   in the past although denies any diagnosis. Was evaluated by the
   psychiatric service at the OSH who felt she had PTSD [**12-31**] the fire and
   was not actually suicidal. Has h/o substance abuse (marijuana in
   urine).
   - Section 12 completed; cont 1:1 sitter
   - Appreciate psych and SW eval; f/u recs
   - Will contact patient's PCP for collateral info
   - will need long term care plan with regard to f/u with her therapist
   in [**State 395**]
   # Bradycardia: stable with HR ranging in 40s
 70s, asymptomatic.  Will
   cont to monitor.
   # Asthma: Patient has h/o asthma as well as FHx of "abnormal bronchi"
   in mom and grandparents. Has been smoking since age 6 and takes
   singulair, flovent, and albuterol at home. When first presented had
   some respiratory distress which rapidly resolved. Had another episode
   overnight responding to nebs.
   - Cont flovent, albuterol
   - Singulair held as hepatically cleared
   - Nicotine patch PRN ->does not want one currently
   - Smoking cessation counseling completed but in pre-contemplative stage
   currently
   - O2 as needed. Currently on RA with good saturation
   ICU Care
   Nutrition:
   Glycemic Control:  blood glucose 86-109
   Lines:
   20 Gauge - [**2137-5-20**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: likely transfer to floor

2137-05-21 09:50:00 Physician Attending Progress Note
Chief Complaint: liver failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2137-5-20**] 09:35 AM
   abdominal
 TRANSTHORACIC ECHO - At [**2137-5-20**] 01:21 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-5-20**] 10:59 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-5-21**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 53 (45 - 68) bpm
   BP: 114/67(79) {104/62(74) - 143/82(92)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  2,401 mL
                                                                    921 mL
   PO:
                                                                     45 mL
             TF:
   IVF:
                                                                  2,356 mL
                                                                    921 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    550 mL
   Urine:
                                                                  2,600 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -199 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Gne:
   CV
   Chest
   Abd
   Ext
   Neuro
   Labs / Radiology
   13.6 g/dL
   105 K/uL
   95 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.5 mEq/L
   10 mg/dL
   109 mEq/L
   138 mEq/L
   38.9 %
   5.4 K/uL
        [image002.jpg]
                             [**2137-5-19**]  05:20 AM
                             [**2137-5-19**]  10:40 AM
                             [**2137-5-19**]  03:55 PM
                             [**2137-5-19**]  09:41 PM
                             [**2137-5-20**]  04:06 AM
                             [**2137-5-20**]  09:35 AM
                             [**2137-5-20**]  11:40 AM
                             [**2137-5-20**]  05:15 PM
                             [**2137-5-20**]  10:46 PM
                             [**2137-5-21**]  04:35 AM
   WBC
   8.0
   6.6
   5.8
   5.4
   Hct
   41.6
   39.3
   41.1
   38.9
   Plt
   179
   132
   98
   105
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.5
   Glucose
   94
   90
   109
   168
   95
   98
   96
   95
   Other labs: PT / PTT / INR:24.6/32.9/2.4, CK / CKMB / Troponin-T:83//,
   ALT / AST:[**Numeric Identifier 8363**]/3886, Alk Phos / T Bili:113/3.7, Amylase / Lipase:/62,
   Differential-Neuts:74.4 %, Lymph:20.2 %, Mono:4.1 %, Eos:1.0 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:1432 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 BRADYCARDIA
 .H/O ASTHMA
 .H/O PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   1. Tylenol Overdose: s/p large ingestion and in probable range for
   hepatotoxicity on nomogram by initial labs. Labs this AM worsening,
   concerning trajectory. Needs q2 finger sticks, abd US with dopplers,
   type and screen x 2, echo,
   Needs transplant SW to discuss her insurance and social supports.
   Psych involved, 1:1 Sitter.
   2. Asthma: MDIs, prn
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2137-5-20**] 12:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: po diet
   Communication:  Comments:
   Code status: Full code
   Disposition :transfer to floor
   Total time spent: